US08008483B2
d) Preparation of N-[(2,4-dichlorophenyl)methyl]-1-[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]-4-piperidinecarboxamide
To a solution of 1-[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid (84 mg, 0.25 mmol, 1.0 equiv), [(2,4-dichlorophenyl)methyl]amine (44 μL, 0.31 mmol, 1.3 equiv), and diisopropylethylamine (DIEA, 70 μL, 0.38 mmol, 1.5 equiv) in DMF (1.6 mL) was added BOP (166 mg, 0.38 mmol, 1.5 equiv). The reaction mixture was stirred overnight at room temperature. The resulting solution was filtered and purified using reverse-phase HPLC (Sunfire, 10-45% CH3CN/H2O, 0.1% TFA, 12 min) to afford 28 mg (23%) of the title compound. MS (ES+): m/e 493.1 [M]+.

reactant | 1-[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid | 0.25 mmol, 84 mg, 1.0 equiv | CNC1=NC(=NC(=N1)N1CCN(CC1)C)N1CCC(CC1)C(=O)O | C15H25N7O2
reactant | [(2,4-dichlorophenyl)methyl]amine | 0.31 mmol, 44 μL, 1.3 equiv | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
reactant | diisopropylethylamine | 0.38 mmol, 70 μL, 1.5 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOP | 0.38 mmol, 166 mg, 1.5 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1.6 mL | CN(C)C=O | C3H7NO
product | N-[(2,4-dichlorophenyl)methyl]-1-[4-(methylamino)-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]-4-piperidinecarboxamide | 28 mg, 23% | ClC1=C(C=CC(=C1)Cl)CNC(=O)C1CCN(CC1)C1=NC(=NC(=N1)NC)N1CCN(CC1)C | C22H30Cl2N8O
